US06617339B1
3-(4-(4-(2-Phenyl-1,3-dioxan-5-ylcarbonyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
To a stirred solution of 2-phenyl-1,3-dioxan-5-ylcarboxylic acid (478 mg, 2.3 mmol) and N-hydroxysuccinimide (291 mg, 2.5 mmol) in anhydrous dichloromethane (25 ml) at 0° was added dicyclohexylcarbodiimide (522 mg, 2.5 mmol). After sitting 1 hour at 0°, N,N-diisopropylethylamine (623 mg, 4.8 mmol) was added, followed by 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride (1 g, 2.3 mmol) in portions over 5 minutes. The temperature was allowed to rise to ambient, and stirring continued for 3 hours. Solid was filtered off, washed with dichloromethane (2×20 ml), and the combined organics evaporated to dryness. The residue was purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the required product (890 mg) as a mixture of cis and trans isomers.

reactant | 2-phenyl-1,3-dioxan-5-ylcarboxylic acid | 2.3 mmol, 478 mg | C1(=CC=CC=C1)C1OCC(CO1)C(=O)O | C11H12O4
reactant | N-hydroxysuccinimide | 2.5 mmol, 291 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 2.5 mmol, 522 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N-diisopropylethylamine | 4.8 mmol, 623 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride | 2.3 mmol, 1 g | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-(4-(4-(2-Phenyl-1,3-dioxan-5-ylcarbonyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 890 mg | C1(=CC=CC=C1)C1OCC(CO1)C(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C28H29FN4O7
